US07365066B2
4-[2-(6-Methoxy-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline
Add methanol (19 mg, 0.59 mmol) and sodium hydride (14 mg, 60% dispersion, 0.35 mmol) to a solution of 4-[2-(6-chloro-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline (42 mg, 0.118 mmol) in DMF (0.6 mL) at room temperature. Heat to 110° C. for 3 hours, cool to room temperature, and quench with saturated aqueous ammonium chloride (0.5 mL). Concentrate in vacuo, filter, and purify by flash column chromatography (Silica Gel, 20-40% acetone/hexanes) to provide the title compound 30 mg (73%) as a white solid.

reactant | methanol | 0.59 mmol, 19 mg | CO | CH4O
reactant | sodium hydride | 0.35 mmol, 14 mg | [H-].[Na+]
reactant | 4-[2-(6-chloro-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline | 0.118 mmol, 42 mg | ClC1=CC=CC(=N1)C1=NN2C(C=CC=C2)=C1C1=CC=NC2=CC=CC=C12 | C21H13ClN4
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | 4-[2-(6-Methoxy-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline | 30 mg, 73% | COC1=CC=CC(=N1)C1=NN2C(C=CC=C2)=C1C1=CC=NC2=CC=CC=C12 | C22H16N4O
